US04227014
Preparation of p-(8-cyclohexyloctylamino)-N-(phenylsulfonyl)benzamide
To the resulting oily residue of p-(8-cyclohexyloctyl)aminobenzoyl chloride hydrochloride is added, in one portion, the previously prepared mixture of sodium benzenesulfonamide in dimethylacetamide. The mixture is stirred for 30 minutes, without cooling, and is then filtered through a bed of diatomaceous earth. The filtrate is poured into 2 l. of water, and 250 ml. of saturated sodium chloride solution is added to coagulate the precipitate. The mixture is filtered and the product is washed with water and partially air dried. The product is dissolved in methylene chloride, the mixture is filtered through diatomaceous earth, and brine is added to break the emulsion. The layers are separated, the organic phase is dried over anhydrous sodium sulfate and filtered through a bed of 300 g. of hydrous magnesium silicate. The product is eluted with an additional 3 l. of methylene chloride. The first approx. 1 l. of filtrate is set aside and the remainder is evaporated to dryness. The residue is crystallized three times from toluene to yield the product.

reactant | p-(8-cyclohexyloctyl)aminobenzoyl chloride hydrochloride | Cl.C1(CCCCC1)CCCCCCCCNC1=CC=C(C(=O)Cl)C=C1
reactant | sodium benzenesulfonamide | C1(=CC=CC=C1)S(=O)(=O)N.[Na]
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | p-(8-cyclohexyloctylamino)-N-(phenylsulfonyl)benzamide | C1(CCCCC1)CCCCCCCCNC1=CC=C(C(=O)NS(=O)(=O)C2=CC=CC=C2)C=C1 | C27H38N2O3S
